US08022223B2
Step B: Preparation of methyl 3-(2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)propanoate:
A mixture of N-(3-bromopyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine (0.55 g, 1.79 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.052 g, 0.090 mmol), Pd2dba3 (0.041 g, 0.045 mmol), methyl 3-mercaptopropanoate (0.21 mL, 1.88 mmol), N-ethyl-N-isopropylpropan-2-amine (0.62 mL, 3.60 mmol), and dioxane (40 mL) was heated to 95° C. under nitrogen. Cooled to ambient temperature and filtered the solids. Concentrated and purified by MPLC (Biotage) eluting with 1:1 hexane:ethyl acetate to afford the title compound (0.541 g, 87% yield) as a dark yellow oil.

reactant | N-(3-bromopyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine | 1.79 mmol, 0.55 g | BrC=1C(=NC=CC1)NC=1SC2=NC=CC=C2N1 | C11H7BrN4S
reactant | methyl 3-mercaptopropanoate | 1.88 mmol, 0.21 mL | SCCC(=O)OC | C4H8O2S
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.60 mmol, 0.62 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.045 mmol, 0.041 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.090 mmol, 0.052 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)propanoate | 0.541 g, 87% yield | N1=C(SC2=NC=CC=C21)NC2=NC=CC=C2SCCC(=O)OC | C15H14N4O2S2
